US06878704B2
Preparation 6 7-(4-tert-Butoxycarbonylpiperazin-1-yl)-1-ethyl-6-fluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid
7-(1-Piperazinyl)-1-ethyl-6-fluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid (2.0 g) in tetrahydrofuran/water 1:1 (200 ml) was treated with 2.0 M sodium hydroxide (3.5 ml) followed by di-tert-butyldicarbonate (1.5 g) and stirred at ambient temperature for 18 hours. The tetrahydrofuran was removed in-vacuo and the mixture acidified with citric acid. The resulting precipitate was filtered off and dried in-vacuo to give the title compound (2.6 g). M.S. (+ve ion chemical ionisation) m/z 420 (MH+, 20%), 276 (100%).

reactant | 7-(1-Piperazinyl)-1-ethyl-6-fluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 2.0 g | N1(CCNCC1)C1=C(C=C2C(C(=CN(C2=C1)CC)C(=O)O)=O)F | C16H18FN3O3
reactant | sodium hydroxide | 2.0 M, 3.5 ml | [OH-].[Na+]
reactant | di-tert-butyldicarbonate | 1.5 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran water | 200 ml | O1CCCC1.O
product | 7-(4-tert-Butoxycarbonylpiperazin-1-yl)-1-ethyl-6-fluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 2.6 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=C2C(C(=CN(C2=C1)CC)C(=O)O)=O)F | C21H26FN3O5
